US05587389
1. 2-{[[4-(2-Furylmethylthio)-3-methyl,2-pyridinyl]methyl]thio}-1H-benzimidazole
One equivalent (2.92 g) of 2-chloromethyl-4-(2-furylmethylthio)-3-methylpyridine hydrochloride (dissolved in 10 ml of water) is added dropwise at 40° C. in the course of 20 minutes to a solution of 2-mercapto-1H-benzimidazole (1.5 g/10 mmol) in 40 ml of ethanol and 21 ml of 1N sodium hydroxide solution. The mixture is subsequently stirred at 50°-60° C. for 2-3 h and at RT for a further 3-4 h, ethanol is distilled off on a rotary evaporator (1 kPa/40° C.), the residue is extracted 3 times using in each case 20 ml of dichloromethane, and the dichloromethane phase is washed with 0.1N sodium hydroxide solution, dried over potassium carbonate and evaporated fully in vacuo. For purification, the crude product is chromatographed on silica gel (dichloromethane/methanol 20:1 to 3:1); the collected pure fractions are together concentrated in vacuo and crystallized from dichloromethane/diisopropyl ether. The product is subsequently recrystallized from methanol/toluene. Yield: 2.61 g (71%) of the title compound as a colorless solid of m.p. 188°-189° C.

reactant | 2-chloromethyl-4-(2-furylmethylthio)-3-methylpyridine hydrochloride | 10 ml, 2.92 g, One equivalent | Cl.ClCC1=NC=CC(=C1C)SCC=1OC=CC1
reactant | 2-mercapto-1H-benzimidazole | 10 mmol, 1.5 g | SC1=NC2=C(N1)C=CC=C2 | C7H6N2S
solvent | ethanol | 40 ml | C(C)O | C2H6O
solvent | sodium hydroxide | 1N, 21 ml | [OH-].[Na+]
product | 2-{[[4-(2-Furylmethylthio)-3-methyl,2-pyridinyl]methyl]thio}-1H-benzimidazole | O1C(=CC=C1)CSC1=C(C(=NC=C1)CSC1=NC2=C(N1)C=CC=C2)C | C19H17N3OS2
